### PR TITLE
feat(NumberTheory/ModularForms/JacobiTheta): the derivative of jacobiTheta₂ in τ

### PR DESCRIPTION
**Pull request by edwardfalk**
Adds `hasDerivAt_jacobiTheta₂_snd`, the companion to the existing `hasDerivAt_jacobiTheta₂_fst`: for `0 < im τ`,

```lean
HasDerivAt (jacobiTheta₂ z) (∑' n : ℤ, π * I * n ^ 2 * jacobiTheta₂_term n z τ) τ
```

The file already provides `differentiableAt_jacobiTheta₂_fst` / `differentiableAt_jacobiTheta₂_snd` and `hasDerivAt_jacobiTheta₂_fst`, so the `τ`-derivative in `HasDerivAt` form was the one missing corner of that square. The proof mirrors `hasDerivAt_jacobiTheta₂_fst`, evaluating the Fréchet derivative in the direction `(0, 1)` rather than `(1, 0)`.

Unlike the `z`-derivative there is no named function for the `τ`-derivative (`jacobiTheta₂'` has no `τ` analogue), so the statement uses an explicit `tsum`. Happy to introduce a definition instead if reviewers prefer.

No new imports, no changes to existing declarations.

I needed this to differentiate the theta functional equation at its fixed point `τ = i`; it seemed generally useful enough to upstream on its own.

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 1]
```diff
@@ -355,6 +355,29 @@ lemma hasDerivAt_jacobiTheta₂_fst (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
     (((hasFDerivAt_jacobiTheta₂ z hτ).comp z (hasFDerivAt_prodMk_left z τ)).hasDerivAt :)
   rwa [← step1.tsum_eq] at step3
 
+/-- The derivative of `Θ z τ` in `τ`, for fixed `z`, as a sum over `n` of the `τ`-derivatives
+of the summands. Compare `hasDerivAt_jacobiTheta₂_fst` for the derivative in `z`. -/
+lemma hasDerivAt_jacobiTheta₂_snd (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:360]: It's always a bit awkward to formulate lemmas involving more than one partially-defined operation (integrals, sums, derivatives, etc). The lemma is really asserting three things -- "X is well-defined, Y is well-defined and X = Y" -- and using `HasFoo` API we can assert two of those at once, but not all three.

In this case, the argument actually proves the summability of the series on the left along the way (but then discards the information). So one could change the formulation to
```lean
    Summable (fun n ↦ π * I * n ^ 2 * jacobiTheta₂_term n z τ) ∧ 
      HasDerivAt (jacobiTheta₂ z) (∑' n, π * I * n ^ 2 * jacobiTheta₂_term n z τ) τ := by
```
and prove this stronger statement by inserting
```lean
  refine ⟨step1.summable, ?_⟩
```
before `step3`. 

(Notice that the type of `n` doesn't need to be specified in the summation, because there's only one type that `jacobiTheta₂_term` will accept.)

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 2]
```diff
@@ -355,6 +355,29 @@ lemma hasDerivAt_jacobiTheta₂_fst (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
...
+    map_add' := by simp only [add_apply, forall_const]
+    map_smul' := by simp }
+  have step1 : HasSum (fun n ↦ (jacobiTheta₂_term_fderiv n z τ) (0, 1))
+      ((jacobiTheta₂_fderiv z τ) (0, 1)) := by
+    apply eval_snd_CLM.hasSum (hasSum_jacobiTheta₂_term_fderiv z hτ)
+  have step2 (n : ℤ) : (jacobiTheta₂_term_fderiv n z τ) (0, 1)
+      = π * I * n ^ 2 * jacobiTheta₂_term n z τ := by
+    simp only [jacobiTheta₂_term_fderiv, jacobiTheta₂_term, add_apply,
+      FunLike.coe_smul', ContinuousLinearMap.coe_fst', ContinuousLinearMap.coe_snd',
+      Pi.smul_apply, smul_eq_mul, mul_zero, mul_one, zero_add, mul_comm _ (cexp _)]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:375]: Mathlib coding conventions have changed a bit since this file was originally written, so it's now actively discouraged to use `simp only` in terminal positions like here. So I'd suggest:
```suggestion
  have step2 (n) : 
      jacobiTheta₂_term_fderiv n z τ (0, 1) = π * I * n ^ 2 * jacobiTheta₂_term n z τ := by
    simp [jacobiTheta₂_term_fderiv, jacobiTheta₂_term, mul_comm]
```
(I also put the statement on a single line for, IMHO, better readability)

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 3]
```diff
@@ -355,6 +355,29 @@ lemma hasDerivAt_jacobiTheta₂_fst (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
...
+  rw [funext step2] at step1
+  have step3 : HasDerivAt (jacobiTheta₂ z) ((jacobiTheta₂_fderiv z τ) (0, 1)) τ :=
+    (((hasFDerivAt_jacobiTheta₂ z hτ).comp τ (hasFDerivAt_prodMk_right z τ)).hasDerivAt :)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:378]: The "smile" `:)` doesn't seem to be needed here, the following works:
```suggestion
  have step3 : HasDerivAt (jacobiTheta₂ z) ((jacobiTheta₂_fderiv z τ) (0, 1)) τ :=
    ((hasFDerivAt_jacobiTheta₂ z hτ).comp τ (hasFDerivAt_prodMk_right z τ)).hasDerivAt
```

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 4]
```diff
@@ -355,6 +355,29 @@ lemma hasDerivAt_jacobiTheta₂_fst (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
...
 
+/-- The derivative of `Θ z τ` in `τ`, for fixed `z`, as a sum over `n` of the `τ`-derivatives
+of the summands. Compare `hasDerivAt_jacobiTheta₂_fst` for the derivative in `z`. -/
+lemma hasDerivAt_jacobiTheta₂_snd (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
+    HasDerivAt (jacobiTheta₂ z) (∑' n : ℤ, π * I * n ^ 2 * jacobiTheta₂_term n z τ) τ := by
+  -- As in `hasDerivAt_jacobiTheta₂_fst`, we must commute "evaluation at a point" through an
+  -- infinite sum of continuous linear maps; here the point is `(0, 1)` rather than `(1, 0)`.
+  let eval_snd_CLM : (ℂ × ℂ →L[ℂ] ℂ) →L[ℂ] ℂ :=
+  { toFun := fun f ↦ f (0, 1)
+    map_add' := by simp only [add_apply, forall_const]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:366]:
```suggestion
    map_add' := by simp
```

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 5]
```diff
@@ -355,6 +355,29 @@ lemma hasDerivAt_jacobiTheta₂_fst (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
...
   rwa [← step1.tsum_eq] at step3
 
+/-- The derivative of `Θ z τ` in `τ`, for fixed `z`, as a sum over `n` of the `τ`-derivatives
+of the summands. Compare `hasDerivAt_jacobiTheta₂_fst` for the derivative in `z`. -/
+lemma hasDerivAt_jacobiTheta₂_snd (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
+    HasDerivAt (jacobiTheta₂ z) (∑' n : ℤ, π * I * n ^ 2 * jacobiTheta₂_term n z τ) τ := by
+  -- As in `hasDerivAt_jacobiTheta₂_fst`, we must commute "evaluation at a point" through an
+  -- infinite sum of continuous linear maps; here the point is `(0, 1)` rather than `(1, 0)`.
+  let eval_snd_CLM : (ℂ × ℂ →L[ℂ] ℂ) →L[ℂ] ℂ :=
+  { toFun := fun f ↦ f (0, 1)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:365]: syntactic sugar:
```suggestion
  { toFun f := f (0, 1)
```

**Review by loefflerd — COMMENTED** [review]
Thanks for this (and sorry it took me a little while to get around to this, I forgot to tell the review-bot I was on holiday). 

I think it's a very nice contribution, and I have only a few pedantic code-style issues to raise. Most of these relate to changes in mathlib coding conventions since the original code that you are following was written. (If you feel like applying the corresponding updates to `hasDerivAt_jacobiTheta₂_fst` as well, that would be welcome, but it's not in any way obligatory for this PR.)
